US09062092B2
Compound 39a. [(R)-1-(7-Bromo-quinolin-2-yl)-ethyl]-carbamic acid tert-butyl ester
To a solution of (R)-1-(7-bromo-quinolin-2-yl)-ethylamine hydrochloride (obtained from ASIBA Pharmatech Inc.), (3.5 g, 12.2 mmol) in anhydrous dichloromethane at 0° C. and under an atmosphere of nitrogen was added triethylamine (5.1 mL, 36.5 mmol), 4-dimethylaminopyridine (297 mg, 2.4 mmol) and di-tert-butyl dicarbonate (4.0 g, 18.3 mmol). The reaction was warmed to room temperature and stirred for 2 h. The reaction was cooled to 0° C. and quenched with hydrochloric acid (1 M). The organic layer was separated, washed with brine, dried through a hydrophobic frit and concentrated in vacuo. The product was purified by silica gel chromatography using iso-hexanes/ethyl acetate 6:1 to afford the title compound (3 g, 70%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 1.49 (s, 9H), 1.55 (d, J=6.9 Hz, 3H), 4.93-5.10 (m, 1H), 6.01-6.20 (m, 1H), 7.38 (d, J=8.5 Hz, 1H), 7.62 (dd, J=8.7, 1.8 Hz, 1H), 7.69 (d, J=8.7 Hz, 1H), 8.11 (d, J=8.5 Hz, 1H), 8.29 (s, 1H). LCMS (m/z) 353.0 [M+H], Tr=3.02 min.

reactant | (R)-1-(7-bromo-quinolin-2-yl)-ethylamine hydrochloride | 12.2 mmol, 3.5 g | Cl.BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)N
reactant | triethylamine | 36.5 mmol, 5.1 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 18.3 mmol, 4.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.4 mmol, 297 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | [(R)-1-(7-Bromo-quinolin-2-yl)-ethyl]-carbamic acid tert-butyl ester | 3 g, 70% | C(C)(C)(C)OC(N[C@H](C)C1=NC2=CC(=CC=C2C=C1)Br)=O | C16H19BrN2O2
